US06384234B1
Preparation of N-(5-Amino-2-chloro-4-fluorophenyl)-1-chloromethanesulfonamide
74.5 g of crude N-[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]acetamide (purity: 90%) was suspended in 355 mL of 6 N hydrochloric acid and heated to 95° C. After 1.5 hours the suspension turned into a solution. The mixture was cooled to room temperature and 90 mL of a NaOH solution (50%) was added (pH 3). The precipitated product was filtered and washed with water to yield, after drying, 62.8 g of the title compound as yellow crystals (purity: 86.4% by HPLC) which could be further purified by recrystallization as described above in Example 5.

reactant | N-[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]acetamide | 74.5 g | ClC1=CC(=C(C=C1NS(=O)(=O)CCl)NC(C)=O)F | C9H9Cl2FN2O3S
reactant | NaOH | 90 mL | [OH-].[Na+]
solvent | hydrochloric acid | 6 N, 355 mL | Cl | ClH
product | N-(5-Amino-2-chloro-4-fluorophenyl)-1-chloromethanesulfonamide | NC=1C(=CC(=C(C1)NS(=O)(=O)CCl)Cl)F | C7H7Cl2FN2O2S
